US04937251
2-[2-[(4-Bromobutyl)oxy]ethyl]pyridine
From 2-pyridineethanol (5.0 g) and 1,4-dibromobutane (26.29 g), with a reaction time of 4 h. FCC eluting with ether-hexane (1:1) gave the title compound as a pale yellow oil (6.4 g), t.l.c. (ether-hexane 1:1) Rf 0.37.

reactant | 2-pyridineethanol | 5.0 g | N1=C(C=CC=C1)CCO | C7H9NO
reactant | 1,4-dibromobutane | 26.29 g | BrCCCCBr | C4H8Br2
product | 2-[2-[(4-Bromobutyl)oxy]ethyl]pyridine | 6.4 g | BrCCCCOCCC1=NC=CC=C1 | C11H16BrNO
